US05278326
Preparation of N-[2,6-bis(1-methylethyl)phenyl]-3-oxo-dodecanamide
The title compound was prepared from 2-undecanone (5.0 g, 0.029 mol), 2,6-diisopropylphenyl isocyanate (5.96 g, 0.029 mol), and lithium diisopropylamide (0.029 mol) using the procedure described in Example 1. The desired product was obtained in 79.4% yield (8.6 g, 0.023 mol).

reactant | 2-undecanone | 0.029 mol, 5.0 g | CC(CCCCCCCCC)=O | C11H22O
reactant | 2,6-diisopropylphenyl isocyanate | 0.029 mol, 5.96 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
reactant | lithium diisopropylamide | 0.029 mol | C(C)(C)[N-]C(C)C.[Li+]
product | N-[2,6-bis(1-methylethyl)phenyl]-3-oxo-dodecanamide | CC(C)C1=C(C(=CC=C1)C(C)C)NC(CC(CCCCCCCCC)=O)=O | C24H39NO2
